US07173133B2
rac-2-p-Tolyl-cyclohexanone
To a solution of p-tolylbromide (17.1 g, 100 mmol) in dry THF (100 mL) was added magnesium (2.43 g, 100 mmol) and then the resulting mixture was cooled to −20° C. and (CuBr-dimethylsulfide complex (2.0 g, 10 mmol) was added and the mixture stirred at −20° C. for 10 min. Then a solution of cyclohexene oxide (10 mL, 100 mmol) in dry THF (10 mL) was added dropwise and the reaction warmed to 0° C. at which point an exothermic reaction initiates. With ice-bath cooling the temperature can be maintained below 25° C. The reaction mixture was then stirred at 0–5° C. for an additional 2 h, then quenched with ammonium chloride solution (saturated, 30 mL) and the product extracted with tert-butyl methyl ether. The combined organic extracts were then washed with water, dried over sodium sulfate, filtered and evaporated. Recrystallisation from hexane afforded the title compound (9.9 g, 52%) as white crystals. MS: m/e=190.1 (M).

reactant | p-tolylbromide | 100 mmol, 17.1 g | C1(=CC=C(C=C1)Br)C | C7H7Br
reactant | magnesium | 100 mmol, 2.43 g | [Mg] | Mg
reactant | cyclohexene oxide | 100 mmol, 10 mL | C12C(CCCC1)O2 | C6H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | rac-2-p-Tolyl-cyclohexanone | 9.9 g, 52% | C1(=CC=C(C=C1)C1C(CCCC1)=O)C | C13H16O
